US07723333B2
2-tert-Butyl-4-{[1-(5-methylpyridin-2-yl)piperidin-4-yl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (97 mg, 0.324 mmol) was dissolved in dry DMF (1 mL) under nitrogen atmosphere. 1-(5-Methylpyridin-2-yl)piperidin-4-amine dihydrochloride (86 mg, 0.327 mmol) was added followed by TEA (33 g, 0.324 mmol). The reaction mixture was heated in a microwave reactor for at 120° C. for 25 mins. The mixture was diluted with EtOAc and washed with saturated aqueous NaHCO3-solution and water. The organic phase was dried over Na2SO4, filtered and evaporated. The crude product was purified by preparative HPLC affording the title compound (64 mg, 43.5%). 1H NMR (500 MHz, CDCl3): δ 1.33-1.41 (m, 2H), 1.71-1.74 (m, 1H), 2.17 (s, 3H), 2.38-2.43 (m, 2H), 3.08-3.15 (m, 1H), 3.95-3.99 (m, 2H), 5.23 (d, 1H), 6.51 (d, 1H), 7.26 (dd, 1H), 7.43-7.45 (m, 3H), 7.53-7.55 (m, 2H), 7.96 (s, 1H); 13C NMR (125 MHz, CDCl3): δ 17.51, 27.84, 32.05, 44.64, 50.68, 61.78, 107.10, 107.50, 122.63, 125.39, 128.91, 130.11, 131.90, 134.20, 138.65, 147.86, 157.77, 159.91; Mass Spectrum: M+H+ 455.0.

reactant | 2-tert-Butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.324 mmol, 97 mg | C(C)(C)(C)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-(5-Methylpyridin-2-yl)piperidin-4-amine dihydrochloride | 0.327 mmol, 86 mg | Cl.Cl.CC=1C=CC(=NC1)N1CCC(CC1)N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-tert-Butyl-4-{[1-(5-methylpyridin-2-yl)piperidin-4-yl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 64 mg, 43.5% | C(C)(C)(C)N1S(C(=C(C1=O)NC1CCN(CC1)C1=NC=C(C=C1)C)C1=CC=CC=C1)(=O)=O | C24H30N4O3S
